US08685274B2
THF (100 ml) was added to 1-bromo-4-ethoxy-2,3-difluorobenzene(5.1 g) in a reaction vessel under an atmosphere of nitrogen, and the mixture was cooled to −78° C. n-Butyllithium (1.57 M, in a hexane solution) (13.8 ml) was added dropwise at a temperature of −70° C. or lower. The stirring was continued at −78° C. for another 2 hours, and 4-(3-propylcyclopentyl)-cyclohexanone (3.0 g) in a THF (10 ml) solution was added dropwise at a temperature of −70° C. or lower. After the mixture had been stirred at −78° C. for another 1 hour, it was warmed to room temperature, and a saturated aqueous solution of ammonium chloride (50 ml) was added. The mixture was separated, and the water layer was extracted with ethyl acetate three times, and then the combined organic layer was washed with brine. The solution was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: ethyl acetate/n-heptane= 1/9 by volume) to give 1-(4-ethoxy-2,3-difluorophenyl)-4-(3-propylcyclopentyl)cyclohexanol (5.0 g).

reactant | 1-bromo-4-ethoxy-2,3-difluorobenzene | 5.1 g | BrC1=C(C(=C(C=C1)OCC)F)F | C8H7BrF2O
reactant | n-Butyllithium | C(CCC)[Li]
reactant | 4-(3-propylcyclopentyl)-cyclohexanone | 3.0 g | C(CC)C1CC(CC1)C1CCC(CC1)=O | C14H24O
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-(4-ethoxy-2,3-difluorophenyl)-4-(3-propylcyclopentyl)cyclohexanol | 5.0 g | C(C)OC1=C(C(=C(C=C1)C1(CCC(CC1)C1CC(CC1)CCC)O)F)F | C22H32F2O2
